US08198456B2
A mixture of NH2OH.HCl (229 mg, 3.3 mmol) and 4-(3-formyl-1H-indazol-5-yl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarbonitrile (200 mg, 0.66 mmol), from Synthetic Example 10B, in pyridine (5 mL) was stirred at rt overnight. After removal of pyridine under vacuum, the residue was treated with a saturated solution of NaHCO3 and extracted with CH2Cl2. The organic phases were combined, washed with brine, and concentrated. The residue was purified by column to give 1,4-dihydro-4-[3-[(E)-(hydroxyimino)methyl]-1H-indazol-5-yl]-2,6-dimethyl-3,5-pyridinedicarbonitrile (143 mg, 68%) as a powder (Cpd. No. 149, Table 2). 1H-NMR (400 MHz, DMSO-D6): δ=11.42 (s, 1H), 9.55 (s, 1H), 8.36 (s, 1H), 7.85 (s, 1H), 7.60 (d, 1H), 7.38 (d, 1H), 4.58 (s, 1H), 2.03 (s, 6H) ppm.

reactant | NH2OH.HCl | 3.3 mmol, 229 mg | NO.Cl
reactant | 4-(3-formyl-1H-indazol-5-yl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarbonitrile | 0.66 mmol, 200 mg | C(=O)C1=NNC2=CC=C(C=C12)C1C(=C(NC(=C1C#N)C)C)C#N | C17H13N5O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 1,4-dihydro-4-[3-[(E)-(hydroxyimino)methyl]-1H-indazol-5-yl]-2,6-dimethyl-3,5-pyridinedicarbonitrile | 143 mg, 68% | O\N=C\C1=NNC2=CC=C(C=C12)C1C(=C(NC(=C1C#N)C)C)C#N | C17H14N6O
